US07355069B2
b) 2-[(4-{2-[(2,4-Difluorobenzyl)(heptyl)amino]-2-oxoethyl}phenoxy)methyl]benzoic acid
Lithium hydroxide (13.3 mg, 0.554 mmol) in water (1.5 ml) was added into 70335 methyl 2-[(4-{2-[(2,4-difluorobenzyl)(heptyl)amino]-2-oxoethyl}phenoxy)methyl]benzoate (145 mg, 0.277 mmol) dissolved in THF (3 ml). The mixture was then in microwave oven (Smith Synthesizer) at 150° C. for 7 minutes and then evaporated to remove THF. The residue was acidified with 1% hydrochloric acid, pH˜4 and then extracted with ethyl acetate (×2). The organic portions were combined, washed with brine, dried with magnesium sulphate and then evaporated. Chromatography of the residue on a column (ISOLUTE® SI, 2 g/6 ml) using DCM then MeOH/DCM (0.5:99.5, then 1:99) as eluant gave 94 mg desired product, yield 67%.

reactant | Lithium hydroxide | 0.554 mmol, 13.3 mg | [OH-].[Li+]
reactant | methyl 2-[(4-{2-[(2,4-difluorobenzyl)(heptyl)amino]-2-oxoethyl}phenoxy)methyl]benzoate | 0.277 mmol, 145 mg | FC1=C(CN(C(CC2=CC=C(OCC3=C(C(=O)OC)C=CC=C3)C=C2)=O)CCCCCCC)C=CC(=C1)F | C31H35F2NO4
solvent | water | 1.5 ml | O | H2O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 2-[(4-{2-[(2,4-Difluorobenzyl)(heptyl)amino]-2-oxoethyl}phenoxy)methyl]benzoic acid | 94 mg, yield 67% | FC1=C(CN(C(CC2=CC=C(OCC3=C(C(=O)O)C=CC=C3)C=C2)=O)CCCCCCC)C=CC(=C1)F | C30H33F2NO4
